US07572826B2
To a solution of 2-bromo-1,1,1-trifluoroethane (0.74 ml) and triethylamine (1.13 ml) in DMF (30 ml) was added (4-bromobenzyl)-(2-methoxyethyl)amine (2.05 g). The resulting mixture was stirred for 18 h. The mixture was partitioned between ethyl acetate and water, the organic layer was dried and evaporated to an oil, which was purified by column chromatography eluting with a gradient of ethyl acetate (60 to 100%) in isohexane to give (4-bromobenzyl)-(2-methoxyethyl)-(2,2,2-trifluoroethyl) amine (1.84 g). 1H NMR (DMSO-D6) δ 2.1 (bs, 2H), 2.6 (t, 2H), 3.2 (s, 3H), 3.4 (t, 2H), 3.65 (d, 2H), 7.25 (d, 2H), 7.45 (d, 2H). c) (4-Bromobenzyl)-(2-methoxyethyl)amine 2-Methoxyethylamine (16 ml) was added to a solution of 4-bromobenzaldehyde (17.2 g) in THF (150 ml). Glacial acetic acid (5.32 ml) and MgSO4 (0.5 g) were added and the mixture was stirred for 45 min. Sodium triacetoxyborohydride (29.7 g) was added and the resulting mixture was stirred for 4 h. The mixture was partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer was dried and concentrated to an oil, which was purified by column chromatography, eluting with a gradient of ethyl acetate (10 to 100%) in isohexane, then eluting with methanol/DCM (10:90) to give (4-bromobenzyl)-(2-methoxyethyl)amine (13.0 g) as a yellow oil. MS (ES) 244 (M+H)+. 1H NMR (DMSO-D6) δ 2.05 (bs, 1H), 2.6 (t, 2H), 3.38 (t, 2H), 3.2 (s, 3H), 3.62 (s, 2H), 7.25 (d, 2H), 7.45 (d, 2H).

reactant | (4-Bromobenzyl)-(2-methoxyethyl)amine 2-Methoxyethylamine | 16 ml | COCCN.BrC1=CC=C(CNCCOC)C=C1
reactant | 4-bromobenzaldehyde | 17.2 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | acetic acid | 5.32 ml | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 29.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | MgSO4 | 0.5 g | [O-]S(=O)(=O)[O-].[Mg+2]
product | (4-bromobenzyl)-(2-methoxyethyl)amine | 13.0 g | BrC1=CC=C(CNCCOC)C=C1 | C10H14BrNO
